US08541588B2
3-Cyano-4-[2-(tetrahydro-2H-pyran-4-yl)-4-(trifluoromethyl)phenoxy]-N-1,2,4-thiadiazol-5-ylbenzenesulfonamide
To a suspension of zinc dust (458 mg, 7.00 mmol) and lithium chloride (212 mg, 5.00 mmol) in tetrahydrofuran was added dibromoethane (0.043 mL, 0.50 mmol) under nitrogen. The mixture was heated at 70° C. for 10 minutes before cooling and adding chlorotrimethlsilane (0.013 mL, 0.10 mmol). The reaction mixture was stirred for 1 hour then 4-iodotetrahydro-2H-pyran (1060 mg, 5.00 mmol) was added and stirring continued for 18 hours. This mixture was added to a pre-stirred (10 minutes) suspension of 3-cyano-N-(2,4-dimethoxybenzyl)-4-[2-iodo-4-(trifluoromethyl)phenoxy]-N-1,2,4-thiadiazol-5-ylbenzenesulfonamide (Preparation 429, 11 mg, 0.3 mmol), palladium(II) acetate (6.7 mg, 0.03 mmol) and dicyclohexyl(2′,6′-dimethoxybiphenyl-2-yl)phosphine (24.6 mg, 0.06 mmol) in tetrahydrofuran (0.5 mL). The reaction mixture was stirred at room temperature for 2 hours before pouring into saturated aqueous ammonium chloride solution (10 mL). The aqueous layer was extracted with ethyl acetate (3×10 mL). The combined organic layers were dried over magnesium sulfate and concentrated in vacuo to obtain a residue that was purified using an ISCO™ system eluting with heptane:ethyl acetate (1:0 to 4:6, by volume). The residue was dissolved in dichloromethane (3 mL) and trifluoroacetic acid (3 mL) was added. After stirring for 1 hour at room temperature, methanol (20 mL) was added and the resulting precipitate was filtered and the filtrate concentrated in vacuo. The crude material was purified using preparative HPLC to afford the title compound.

reactant | lithium chloride | 5.00 mmol, 212 mg | [Cl-].[Li+]
reactant | dibromoethane | 0.50 mmol, 0.043 mL | BrC(C)Br | C2H4Br2
reactant | chlorotrimethlsilane | 0.10 mmol, 0.013 mL | Cl[Si](C)(C)C | C3H9ClSi
reactant | 4-iodotetrahydro-2H-pyran | 5.00 mmol, 1060 mg | IC1CCOCC1 | C5H9IO
reactant | 3-cyano-N-(2,4-dimethoxybenzyl)-4-[2-iodo-4-(trifluoromethyl)phenoxy]-N-1,2,4-thiadiazol-5-ylbenzenesulfonamide | 0.3 mmol, 11 mg | C(#N)C=1C=C(C=CC1OC1=C(C=C(C=C1)C(F)(F)F)I)S(=O)(=O)N(C1=NC=NS1)CC1=C(C=C(C=C1)OC)OC | C25H18F3IN4O5S2
reactant | dicyclohexyl(2′,6′-dimethoxybiphenyl-2-yl)phosphine | 0.06 mmol, 24.6 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1OC)OC)C1CCCCC1 | C26H35O2P
reactant | ammonium chloride | 10 mL | [Cl-].[NH4+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 0.5 mL | O1CCCC1 | C4H8O
catalyst | zinc | 7.00 mmol, 458 mg | [Zn] | Zn
catalyst | palladium(II) acetate | 0.03 mmol, 6.7 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 3-Cyano-4-[2-(tetrahydro-2H-pyran-4-yl)-4-(trifluoromethyl)phenoxy]-N-1,2,4-thiadiazol-5-ylbenzenesulfonamide | C(#N)C=1C=C(C=CC1OC1=C(C=C(C=C1)C(F)(F)F)C1CCOCC1)S(=O)(=O)NC1=NC=NS1 | C21H17F3N4O4S2
